US07319108B2
Ethyl 4-(3-dimethylaminopyrrolidin-1-yl)benzoate
A mixture of ethyl 4-fluorobenzoate (4.47 g), dimethylpyrrolidin-3-ylamine (3.04 g), potassium carbonate (3.68 g) and dimethyl sulfoxide (20 ml) was heated at 130° C. for 7 hours. After cooling, the mixture was diluted with water and extracted with methyl tert-butyl ether. The organic phase was washed with water, dried over magnesium sulfate, filtered and concentrated. The product with the molecular weight of 262.35 (C15H22N2O2) was obtained in this way; MS (ESI): 263 (M+H+).

reactant | ethyl 4-fluorobenzoate | 4.47 g | FC1=CC=C(C(=O)OCC)C=C1 | C9H9FO2
reactant | dimethylpyrrolidin-3-ylamine | 3.04 g | CN(C1CNCC1)C | C6H14N2
reactant | potassium carbonate | 3.68 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | Ethyl 4-(3-dimethylaminopyrrolidin-1-yl)benzoate | CN(C1CN(CC1)C1=CC=C(C(=O)OCC)C=C1)C | C15H22N2O2
